US05891902
N-Isopropyl-3-(4-benzyloxybenzhydryl)indole-2-sulfonamide
Substantially the same procedure as in Example 266 was repeated using 4-benzyloxybenzhydrol (1.31 g, 4.50 mmol) and N-isopropylindole-2-sulfonamide (1.00 g, 4.46 mmol) to give 1.92 g (yield: 84%) of the title compound.

reactant | 4-benzyloxybenzhydrol | 4.50 mmol, 1.31 g | C(C1=CC=CC=C1)OC1=CC=C(C(C2=CC=CC=C2)O)C=C1 | C20H18O2
reactant | N-isopropylindole-2-sulfonamide | 4.46 mmol, 1.00 g | C(C)(C)NS(=O)(=O)C=1NC2=CC=CC=C2C1 | C11H14N2O2S
product | N-Isopropyl-3-(4-benzyloxybenzhydryl)indole-2-sulfonamide | 1.92 g, yield: 84% | C(C)(C)NS(=O)(=O)C=1NC2=CC=CC=C2C1C(C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=CC=CC=C1 | C31H30N2O3S
